US09120776B2
A solution of 2-((tert-butoxycarbonyl)amino)propanoic acid (200 mg, 1.06 mmol), (9-ethyl-9H-carbazol-3-yl)methanamine (237 mg, 1.06 mmol), HATU (522 mg, 1.37 mmol) and TEA (0.442 mL, 3.17 mmol) in DMF (5 mL) was stirred at room temperature for 16 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 10 to 60% ethyl acetate/hexane), and crystallized from ethyl acetate and hexane to give tert-butyl (1-(((9-ethyl-9H-carbazol-3-yl)methyl)amino)-1-oxopropan-2-yl)carbamate (324 mg, 0.819 mmol, 78%) as a white powder.

reactant | 2-((tert-butoxycarbonyl)amino)propanoic acid | 1.06 mmol, 200 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C | C8H15NO4
reactant | (9-ethyl-9H-carbazol-3-yl)methanamine | 1.06 mmol, 237 mg | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN | C15H16N2
reactant | HATU | 1.37 mmol, 522 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl (1-(((9-ethyl-9H-carbazol-3-yl)methyl)amino)-1-oxopropan-2-yl)carbamate | 0.819 mmol, 324 mg, 78% | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CNC(C(C)NC(OC(C)(C)C)=O)=O | C23H29N3O3
